US05486601
240 Parts of aniline is mixed with 240 parts of hydrochloric acid with stirring, and then 75 parts of cyclohexanone is added to the mixture, which is subjected to the condensation reaction with stirring at 102° to 108° C. for about 24 hours. Then, 700 parts of a 45% aqueous sodium hydroxide solution is added and the non-reacted aniline is collected by steam distillation. Thereafter, 1,1-bis(4-aminophenyl)cyclohexane can be obtained as a crude solid by cooling. In the preferred embodiment of the present invention, this intermediate was purified from solvent to afford a high-purity product, which was used.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | sodium hydroxide | [OH-].[Na+]
product | 1,1-bis(4-aminophenyl)cyclohexane | NC1=CC=C(C=C1)C1(CCCCC1)C1=CC=C(C=C1)N | C18H22N2
